US07435735B2
Step 1: 8-(4-Fluorobenzyl)-10-toluenesulfonyloxy-3,4,7,8-tetrahydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione
To a solution of 8-(4-fluorobenzyl)-10-hydroxy-3,4,7,8-tetrahydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione (1.0 g, 3.0 mmol) and triethylamine (0.64 mL, 4.6 mmol) in dichloromethane (30 mL), p-toluenesulfonyl chloride (0.64 g, 3.34 mmol) was added. The reaction mixture was stirred at rt overnight and concentrated under vacuum. The residue was subjected to reverse phase preparative HPLC purification. Collection and lyophilization of appropriate fractions provided the titled compounds.

reactant | 8-(4-fluorobenzyl)-10-hydroxy-3,4,7,8-tetrahydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | 3.0 mmol, 1.0 g | FC1=CC=C(CN2C(C=3N(CC2)C2=C(C3O)C(NCC2)=O)=O)C=C1 | C17H16FN3O3
reactant | triethylamine | 4.6 mmol, 0.64 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 3.34 mmol, 0.64 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 8-(4-Fluorobenzyl)-10-toluenesulfonyloxy-3,4,7,8-tetrahydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | FC1=CC=C(CN2C(C=3N(CC2)C2=C(C3OS(=O)(=O)C=3C(=CC=CC3)C)C(NCC2)=O)=O)C=C1 | C24H22FN3O5S
